### PR TITLE
[Merged by Bors] - feat: Add extensionality theorem to `PresentedGroup`.

### PR DESCRIPTION
**Pull request by newell**
Add `ext` theorem to `PresentedGroup`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 1]
```diff
@@ -88,6 +88,13 @@ theorem toGroup.unique (g : PresentedGroup rels →* G)
   exact fun _ ↦ FreeGroup.lift.unique (g.comp (QuotientGroup.mk' _)) hg
 #align presented_group.to_group.unique PresentedGroup.toGroup.unique
 
+@[ext]
+theorem ext {φ ψ : PresentedGroup rels →* G}
+    (hx : ∀ (x : α), φ (PresentedGroup.of x) = ψ (PresentedGroup.of x)) : φ = ψ := by
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/PresentedGroup.lean:93]:
```suggestion
theorem ext {φ ψ : PresentedGroup rels →* G} (hx : ∀ (x : α), φ (.of x) = ψ (.of x)) : φ = ψ := by
```

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 2]
```diff
@@ -88,6 +88,13 @@ theorem toGroup.unique (g : PresentedGroup rels →* G)
...
+  refine QuotientGroup.monoidHom_ext (Subgroup.normalClosure rels) ?h
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/PresentedGroup.lean:94]: Also works as
```suggestion
  unfold PresentedGroup
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
